US04167638
A Skraup reaction was run with 4-fluoro-2-nitroaniline and methyl vinyl ketone. The crude product was recrystallized multiply from benzene to obtain a 39% yield of pure 6-fluoro-4-methyl-8-nitroquinoline; mp 139°-141°.

reactant | 4-fluoro-2-nitroaniline | FC1=CC(=C(N)C=C1)[N+](=O)[O-] | C6H5FN2O2
reactant | methyl vinyl ketone | C(=C)C(=O)C | C4H6O
product | 6-fluoro-4-methyl-8-nitroquinoline | 39% yield | FC=1C=C2C(=CC=NC2=C(C1)[N+](=O)[O-])C | C10H7FN2O2
